US08426441B2
B. Pyrrolidine-1-carboxylic acid [3-(8-amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-amide
The mixture of 105 mg (0.493 mmol) of 6-Bromo-imidazo[1,2-a]pyridin-8-ylamine, 195 mg (0.591 mmol) of Pyrrolidine-1-carboxylic acid [2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide, 157 mg (1.48 mmol) of sodium carbonate, and 57 mg (0.049 mmol) of tetrakis(triphenylphosphine)palladium in 5 mL of 1,2-dimethoxyethane and 2.5 mL of water was heated at 110 C for 30 minutes using microwave. The mixture was partitioned between 50 mL of ethyl acetate and 10 mL of water. The organic layer was dried (MgSO4), and concentrated. Column chromatography (0->10% MeOH/CH2Cl2 in 20 minutes) gave 104 mg (0.310 mmol, 63%) of the title compound.

reactant | 6-Bromo-imidazo[1,2-a]pyridin-8-ylamine | 0.493 mmol, 105 mg | BrC=1C=C(C=2N(C1)C=CN2)N | C7H6BrN3
reactant | Pyrrolidine-1-carboxylic acid [2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 0.591 mmol, 195 mg | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)NC(=O)N1CCCC1 | C18H27BN2O3
reactant | sodium carbonate | 1.48 mmol, 157 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | water | 2.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.049 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Pyrrolidine-1-carboxylic acid [3-(8-amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-amide | 0.310 mmol, 104 mg, 63% | NC=1C=2N(C=C(C1)C=1C(=C(C=CC1)NC(=O)N1CCCC1)C)C=CN2 | C19H21N5O
